US04358307
2,3-Dichloroquinoxaline (prepared according to the method of H M Woodburn, J. Org. Chem., 1958, 23, 262) was reacted with 4-(N-methylamino)phenol sulfate, following essentially the same procedure as that described in Example 1 Part (a), to give 4-[N-methyl-N-(3-chloro-2-quinoxalinyl)amino]phenol. Proton magnetic resonance spectrum (d6 -acetone; δ in ppm): 7.5-8.1 (4H, m, quinoxaline protons); 7.1 (4H, m, phenoxy protons); 3.5 (3H, s, N-CH3).

reactant | 2,3-Dichloroquinoxaline | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | 4-(N-methylamino)phenol sulfate | S(=O)(=O)(O)OC1=CC=C(C=C1)NC | C7H9NO4S
product | 4-[N-methyl-N-(3-chloro-2-quinoxalinyl)amino]phenol | CN(C1=NC2=CC=CC=C2N=C1Cl)C1=CC=C(C=C1)O | C15H12ClN3O
